US08648208B2
(4) Ethyl 5-hydroxy-2-methyl-4-[3-[3-propyl-6-(trifluoromethyl)benzothiophen-2-yl]propionyl]phenoxyacetate
In acetone (0.8 mL) was suspended 1-(2,4-dihydroxy-5-methylphenyl)-3-[3-propyl-6-(trifluoromethyl)benzothiophen-2-yl]propan-1-one and cesium carbonate (33 mg, 0.788 mmol). After addition of 1-Methyl bromoacetate in acetone (79 μL), the mixture was stirred for 7 hours at room temperature, diluted with ice-water, and extracted with ethyl acetate. The organic layer was washed with brine, and dried over anhydrous sodium sulfate. After the solvent was removed under reduced pressure, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate, 6:1) to give the titled compound as a pale yellow crystal (34 mg, yield 86%).

reactant | 1-(2,4-dihydroxy-5-methylphenyl)-3-[3-propyl-6-(trifluoromethyl)benzothiophen-2-yl]propan-1-one | OC1=C(C=C(C(=C1)O)C)C(CCC=1SC2=C(C1CCC)C=CC(=C2)C(F)(F)F)=O | C22H21F3O3S
reactant | cesium carbonate | 0.788 mmol, 33 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-Methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
solvent | acetone | 0.8 mL | CC(=O)C | C3H6O
solvent | acetone | 79 μL | CC(=O)C | C3H6O
product | Ethyl 5-hydroxy-2-methyl-4-[3-[3-propyl-6-(trifluoromethyl)benzothiophen-2-yl]propionyl]phenoxyacetate | 34 mg, yield 86% | OC=1C(=CC(=C(OCC(=O)OCC)C1)C)C(CCC=1SC2=C(C1CCC)C=CC(=C2)C(F)(F)F)=O | C26H27F3O5S
